US04069323
To a mixture of 1.00 g (0.0037 mole) of 4-ethyl-1-(L-arginyl) piperidine and 0.61 g (0.0044 mole) of potassium carbonate in 10 ml of water, which had been cooled to 0° C, was added dropwise a solution of 1.25 g (0.0044 mole) of 6,7-dimethoxy-2-naphthalenesulfonyl chloride in 30 ml of dioxane with vigorous stirring over a period of 30 minutes. The reaction mixture was stirred for additional 5 hours at room temperature and the formed precipitate was removed by filtration. The solvent was evaporated under reduced pressure, and to the residue was added 50 ml of chloroform. The undissolved material was filtered off and the solution was dried over sodium sulfate. Addition of 10 ml of acetic acid to this solution followed by evaporation of the solvent gave a viscous oily product, which was reprecipitated with methanol-ethyl ether to afford 4-ethyl-1-[N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl]piperidine acetate in a 62% yield.

reactant | 4-ethyl-1-(L-arginyl) piperidine | 0.0037 mole, 1.00 g | C(C)C1CCN(CC1)C([C@@H](N)CCCNC(N)=N)=O | C13H27N5O
reactant | potassium carbonate | 0.0044 mole, 0.61 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6,7-dimethoxy-2-naphthalenesulfonyl chloride | 0.0044 mole, 1.25 g | COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)Cl | C12H11ClO4S
solvent | water | 10 ml | O | H2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 4-ethyl-1-[N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl]piperidine acetate | 62% yield | C(C)(=O)O.C(C)C1CCN(CC1)C([C@@H](NS(=O)(=O)C1=CC2=CC(=C(C=C2C=C1)OC)OC)CCCNC(N)=N)=O | InChI=1S/C25H37N5O5S.C2H4O2/c1-4-17-9-12-30(13-10-17)24(31)21(6-5-11-28-25(26)27)29-36(32,33)20-8-7-18-15-22(34-2)23(35-3)16-19(18)14-20;1-2(3)4/h7-8,14-17,21,29H,4-6,9-13H2,1-3H3,(H4,26,27,28);1H3,(H,3,4)/t21-;/m0./s1
